US05863899
Synthesis of 4-(3'-carbo-tert-butoxy-propyl mercapto)phenyl 4-tert-butylphenylisobutyrate (4):
A mixture of 4-tert-butylphenylisobutyric acid (2.00 g, 0.0091 mol) and thionyl chloride (1.62 g, 0.0136 mol) in 16 ml of CH2Cl2 was allowed to stir overnight under Argon. The volatiles were removed under vacuum and the resulting solid was dissolved into THF (15 mL) and a solution of tert-butyl-4-(4'-hydroxyphenyl)mercaptobutyrate (2.44 g, 0.0091 mol), TEA (2.5 mL) in THF (15 mL) was added dropwise over 10 min. The mixture was stirred for 3 days, diluted with Et2O and extracted with 5% NaHCO3. The organics were washed with H2O, brine and dried (MgSO4). After evaporization the colored oil was separated (HPLC, silica gel 70:30 CH2Cl2 /hexane to CH2Cl2 linear graduent) to give the desired product as an oil (2.20 g, 51.5%). 1H NMR (CDCl3) δ 1.33 (s, 9H), 1.43 (s, 9H), 1.70 (s, 6H), 1.88 (tt, J=7.2 Hz, 2 H), 2.35 (t, J=7.2 Hz, 2H), 2.90 (t, J=7.2, 2H), 6.92 (d, J=8.6 Hz, 2H), 7.32 (d, J=8.6 Hz, 2H), 7.34-7.40 (m, 4H). 13C NMR (CDCl3) δ0 24.50, 26.42, 28.08, 31.31, 33.70, 34.11, 34.39, 46.40, 80.40, 121.92, 125.23, 125.46, 130.82, 133.03, 140.86, 149.58, 149.69, 172.21, 175.34.

reactant | 4-tert-butylphenylisobutyric acid | 0.0091 mol, 2.00 g | C(C)(C)(C)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H20O2
reactant | thionyl chloride | 0.0136 mol, 1.62 g | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butyl-4-(4'-hydroxyphenyl)mercaptobutyrate | 0.0091 mol, 2.44 g | C(C)(C)(C)OC(CCCSC1=CC=C(C=C1)O)=O | C14H20O3S
solvent | CH2Cl2 | 16 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 4-(3'-carbo-tert-butoxy-propyl mercapto)phenyl 4-tert-butylphenylisobutyrate | 2.20 g, 51.5% | C(C)(C)(C)C1=CC=C(C=C1)C(C(=O)OC1=CC=C(C=C1)SCCCC(=O)OC(C)(C)C)(C)C | C28H38O4S
